US07199124B2
N-[4-[2-(3-methylphenyl)-2-oxoethyl]-2-pyridyl]benzamide
To a solution of 2-(2-amino-4-pyridyl)-1-(3-methylphenyl)ethanone (24.0 g, 0.106 mol) in acetonitrile (500 mL) was added benzoylchloride (27.0 mL, 0.233 mol) at 0° C. Triethylamine (35.6 mL, 0.256 mol) was added dropwise to the obtained mixture and the mixture was stirred at room temperature for 4 hrs. Water was added to the reaction mixture and the precipitated solids were collected by filtration. The aqueous layer was extracted with ethyl acetate and the extract was washed with aqueous sodium hydrogen carbonate solution. The extract was dried and concentrated. The obtained residue and the solid were dissolved in a mixture of tetrahydrofuran (450 mL) and methanol (110 mL) and 1N aqueous sodium hydroxide solution (256 mL) was added. The reaction mixture was stirred for 2 hrs. and concentrated. The residue was extracted with ethyl acetate, dried and concentrated. The residue was purified by silica gel column chromatography (hexane-ethyl acetate=2:1), and the obtained oil was crystallized from ethyl ether to give the title compound (19.5 g, yield 56%).

reactant | 2-(2-amino-4-pyridyl)-1-(3-methylphenyl)ethanone | 0.106 mol, 24.0 g | NC1=NC=CC(=C1)CC(=O)C1=CC(=CC=C1)C | C14H14N2O
reactant | benzoylchloride | 0.233 mol, 27.0 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | Triethylamine | 0.256 mol, 35.6 mL | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | acetonitrile | 500 mL | C(C)#N | C2H3N
product | N-[4-[2-(3-methylphenyl)-2-oxoethyl]-2-pyridyl]benzamide | 19.5 g, yield 56% | CC=1C=C(C=CC1)C(CC1=CC(=NC=C1)NC(C1=CC=CC=C1)=O)=O | C21H18N2O2
